US06277987B1
A solution of the title B compound, (2R)-amino-4-morpholin-4-yl-4-oxobutyric acid benzyl ester hydrochloride (420 mg, 1.28 mmol) in 5 mL of dichloromethane is treated with triethylamine (345 mg, 2.82 mmol) followed by a solution of 4-phenoxybenzenesulfonyl chloride (345 mg, 1.28 mmol) in 2 mL of dichloromethane. The reaction is stirred for 16 h, then partitioned between dichloromethane and water. The organic solution is washed with brine, dried over anhydrous MgSO4 and concentrated. Chomatography on silica gel (eluant; 3% MeOH in dichloromethane) affords 430 mg (64%) of (2R)-(4-phenyloxybenzenesulfonylamino)-4-morpholin-4-yl-4-oxobutyric acid benzyl ester as a white foam.

reactant | (2R)-amino-4-morpholin-4-yl-4-oxobutyric acid benzyl ester hydrochloride | 1.28 mmol, 420 mg | Cl.C(C1=CC=CC=C1)OC([C@@H](CC(=O)N1CCOCC1)N)=O
reactant | triethylamine | 2.82 mmol, 345 mg | C(C)N(CC)CC | C6H15N
reactant | 4-phenoxybenzenesulfonyl chloride | 1.28 mmol, 345 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H9ClO3S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (2R)-(4-phenyloxybenzenesulfonylamino)-4-morpholin-4-yl-4-oxobutyric acid benzyl ester | 430 mg, 64% | C(C1=CC=CC=C1)OC([C@@H](CC(=O)N1CCOCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C27H28N2O7S
